data/oMe_Silver.jsonl
{"reaction_id": "NR-334_1-C(F)(F)F_2-c1ccc2ccccc2c1_3-C_4-c1ccc(Br)cc1","level": "medium","name": "Ritter Reaction","reactants_smiles": ["N#CC(F)(F)F","OC(c1ccc2ccccc2c1)(C)c1ccc(Br)cc1"],"products_smiles": ["C(=O)(NC(c1ccc2ccccc2c1)(C)c1ccc(Br)cc1)C(F)(F)F"],"conditions": "H2SO4, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(c1ccc2ccccc2c1)(C)c1ccc(Br)cc1","step_weight": 0,"rationale": "Protonation of the alcohol oxygen increases its leaving group ability by converting OH into water, a much better leaving group under acidic conditions."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](c1ccc2ccccc2c1)(C)c1ccc(Br)cc1","step_weight": 0,"rationale": "Loss of water generates a carbocation stabilized by adjacent alkyl groups through hyperconjugation and inductive effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(#[N+]C(c1ccc2ccccc2c1)(C)c1ccc(Br)cc1)C(F)(F)F","step_weight": 0,"rationale": "The nitrile nitrogen, being nucleophilic, attacks the carbocation, forming a nitrilium ion stabilized by resonance with the triple bond."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=NC(c1ccc2ccccc2c1)(C)c1ccc(Br)cc1)([OH2+])C(F)(F)F","step_weight": 0,"rationale": "Water, activated by the acidic medium, adds to the electrophilic carbon of the nitrilium ion, forming a protonated imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=NC(c1ccc2ccccc2c1)(C)c1ccc(Br)cc1)(O)C(F)(F)F","step_weight": 0,"rationale": "Deprotonation of the protonated imidate oxygen restores neutrality, yielding the neutral imidic acid form."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC(c1ccc2ccccc2c1)(C)c1ccc(Br)cc1)C(F)(F)F","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the imidic acid to the more thermodynamically stable amide via proton transfers."}],"description": "Under strong acid, the alcohol is protonated and loses water to form a stable carbocation. The nitrile attacks, forming an iminium intermediate, which is then hydrated and tautomerizes to the amide. Acid catalysis drives each step by stabilizing intermediates and activating electrophiles."}
